US06399774B1
[4-(5-(Cyclopropyl-amino)-8,8-dimethyl-5,6,7,8-tetrahydro-naphthalene-2-yl-ethynyl)-2-fluoro-phenyl]acetic Acid Ethyl Ester (Compound 16, General Formula 4)
Following general procedure G and using [2-fluoro-4-(8,8-dimethyl-5-oxo-5,6,7,8-tetrahydro-naphthalene-2-ylethynyl)phenyl]acetic acid ethyl ester Compound 14, 0.258 g, 0.68 mmol), dichloromethane (4 mL), acetonitrile(2 mL), cyclopropyl amine(1 mL, 14.45 mmol), acetic acid (1 mL) and sodium cyanoborohydride (0.266 g, 4.23 mmol) followed by flash column chromatography over silica gel (230-400 mesh) using 16-20-25% ethyl acetate in hexane as the eluent, the title compound was obtained as a pale yellow oil (0.21 g, 73%).

reactant | [2-fluoro-4-(8,8-dimethyl-5-oxo-5,6,7,8-tetrahydro-naphthalene-2-ylethynyl)phenyl]acetic acid ethyl ester | C(C)OC(CC1=C(C=C(C=C1)C#CC1=CC=2C(CCC(C2C=C1)=O)(C)C)F)=O | C24H23FO3
reactant | dichloromethane | 4 mL | ClCCl | CH2Cl2
reactant | cyclopropyl amine | 14.45 mmol, 1 mL | C1(CC1)N | C3H7N
reactant | sodium cyanoborohydride | 4.23 mmol, 0.266 g | C(#N)[BH3-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | [4-(5-(Cyclopropyl-amino)-8,8-dimethyl-5,6,7,8-tetrahydro-naphthalene-2-yl-ethynyl)-2-fluoro-phenyl]acetic Acid Ethyl Ester | C(C)OC(CC1=C(C=C(C=C1)C#CC1=CC=2C(CCC(C2C=C1)NC1CC1)(C)C)F)=O | C27H30FNO2
